US06500822B2
A mixture of 3-(4,4-diethoxybutyl)-[1,3]oxazocan-2-one (2 g, 7.3 mmole) and 1.5 g Dowex 50W2-200 ion exchange resin in 3% aqueous tetrahydrofuran (30 mL) was heated under reflux for 24 hours. The mixture was filtered, and the filtrate was concentrated and dissolved in dichloromethane. The solution was dried with magnesium sulfate and concentrated to give 4-(2-oxo-[1,3]oxazocan-3-yl)-butyraldehyde (1.45 g) as a viscous oil which solidified.

reactant | 3-(4,4-diethoxybutyl)-[1,3]oxazocan-2-one | 7.3 mmole, 2 g | C(C)OC(CCCN1C(OCCCCC1)=O)OCC | C14H27NO4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(2-oxo-[1,3]oxazocan-3-yl)-butyraldehyde | 1.45 g | O=C1OCCCCCN1CCCC=O | C10H17NO3
